US07767675B2
Step 2. 5-bromo-2-cyclopropylisoindolin-1-one
A mixture of methyl 4-bromo-2-(bromomethyl)benzoate (0.13 g, 0.42 mmol), cyclopropylamine (0.034 mL, 0.49 mmol) and potassium carbonate (0.090 g, 0.65 mmol) in ethanol (0.9 mL) was stirred at 40° C. for 3 h. The reaction mixture was quenched with saturated sodium bicarbonate and extracted with EtOAc (3×20 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated. The residue was purified by chromatography on silica gel with 30% EtOAc in hexanes to afford the desired product (0.10 g, 94%). LCMS: (M+H)=252.0/254.0.

reactant | methyl 4-bromo-2-(bromomethyl)benzoate | 0.42 mmol, 0.13 g | BrC1=CC(=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
reactant | cyclopropylamine | 0.49 mmol, 0.034 mL | C1(CC1)N | C3H7N
reactant | potassium carbonate | 0.65 mmol, 0.090 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 0.9 mL | C(C)O | C2H6O
product | 5-bromo-2-cyclopropylisoindolin-1-one | 0.10 g, 94% | BrC=1C=C2CN(C(C2=CC1)=O)C1CC1 | C11H10BrNO
